US04251655
4-(Diphenylmethyl)-1-N-ethyliminomethyl-piperidine oxalate hemihydrate
A mixture of 8.00 g (0.029 mole) of N-formyl-4-diphenylmethylpiperidine and 3.61 g (2.67 ml, 0.029 mole) of dimethylsulfate was heated on a steam bath for two hours to give a clear thick syrup. To this material was then added 1.38 g (2.00 ml, 0.031 mole) of ethylamine in 15 ml of methylene chloride. The resulting solution was stirred for 1.5 hours at 25°, stripped, slurried in ether, and treated with 28 ml of 3 N sodium hydroxide solution. The ethereal layer was dried over potassium carbonate, filtered through diatomaceous earth filter aid and evaporated to give 8.77 g of yellow liquid. Treatment of this material in isopropanol with 3.26 g of oxalic acid dihydrate afforded 5.0 g of white solid m.p. 165°-175° C. Recrystallization from isopropanol afforded pure 4-(diphenylmethyl)-1-N-ethyliminomethylpiperidine oxalate hemihydrate as a white solid; m.p. 185°-187° C.

reactant | N-formyl-4-diphenylmethylpiperidine | 0.029 mole, 8.00 g | C(=O)N1CCC(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H21NO
reactant | dimethylsulfate | 0.029 mole, 2.67 ml, 3.61 g | COS(=O)(=O)OC | C2H6O4S
reactant | ethylamine | 0.031 mole, 2.00 ml, 1.38 g | C(C)N | C2H7N
reactant | sodium hydroxide | 3 N, 28 ml | [OH-].[Na+]
reactant | ether | CCOCC | C4H10O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 4-(Diphenylmethyl)-1-N-ethyliminomethyl-piperidine oxalate hemihydrate | 8.77 g | O.C(C(=O)O)(=O)O.C1(=CC=CC=C1)C(C1CCN(CC1)C=NCC)C1=CC=CC=C1.C1(=CC=CC=C1)C(C1=CC=CC=C1)C1CCN(CC1)C=NCC.C(C(=O)O)(=O)O | InChI=1S/2C21H26N2.2C2H2O4.H2O/c2*1-2-22-17-23-15-13-20(14-16-23)21(18-9-5-3-6-10-18)19-11-7-4-8-12-19;2*3-1(4)2(5)6;/h2*3-12,17,20-21H,2,13-16H2,1H3;2*(H,3,4)(H,5,6);1H2
